US06326359B1
2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetonitrile
Potassium cyanide (22 mg, 0.33 mmol) was added to a stirred solution of {9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (130 mg, 0.22 mmol) (preparation 25) in N,N-dimethylformamide (3 ml). The reaction mixture was heated to 70° C. for 1.5 hr, allowed to cool to room temperature and then partitioned between diethyl ether and water. The aqueous layer was washed with diethyl ether. The combined organic solutions were washed with brine and dried with anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give a residue that was purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol (97:3). This gave the title compound (70 mg) as a powder. MS: 523 (MNa+).

reactant | Potassium cyanide | 0.33 mmol, 22 mg | [C-]#N.[K+]
reactant | {9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.22 mmol, 130 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetonitrile | 70 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC#N | C27H28N6O4
